US06423717B1
4-Methoxy-3-(1-methyl-pyrrolidin-3-yloxy)phenylamine (D25)
A solution of 3-(2-methoxy-5-nitro-phenoxy)-1-methyl-pyrrolidine (3.0 g, 0.12 mmol) in ethanol (50 ml) was hydrogenated over 10% palladium on charcoal catalyst for 2 hrs to afford the title compound (D25). Found MH+ 223.

reactant | 3-(2-methoxy-5-nitro-phenoxy)-1-methyl-pyrrolidine | 0.12 mmol, 3.0 g | COC1=C(OC2CN(CC2)C)C=C(C=C1)[N+](=O)[O-] | C12H16N2O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-Methoxy-3-(1-methyl-pyrrolidin-3-yloxy)phenylamine | COC1=C(C=C(C=C1)N)OC1CN(CC1)C | C12H18N2O2
